US08754107B2
To a suspension of CDI (3.8 g, 20.5 mmol) in THF (40 mL) was added pyrrolidin-3-yl-carbamic acid tert-butyl ester (3.99 g, 20.5 mmol) and the reaction mixture was heated at about 55-60° C. for about 4 h. The reaction mixture was cooled at ambient temperature and concentrated in vacuo to afford an yellow oil. The residue was dissolved in DCM (40 mL), washed with water (2×30 mL), and the organic portion was separated, dried over MgSO4, filtered, and concentrated in vacuo to give [1-(imidazole-1-carbonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (5.06 g, 88%) as a yellow oil which was used in subsequent reactions without further purification. RP-HPLC (Table 1, Method d) Rt 2.08 min; m/z: (M+H)+ 281.

reactant | CDI | 20.5 mmol, 3.8 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | pyrrolidin-3-yl-carbamic acid tert-butyl ester | 20.5 mmol, 3.99 g | C(C)(C)(C)OC(NC1CNCC1)=O | C9H18N2O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | [1-(imidazole-1-carbonyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 5.06 g, 88% | C(C)(C)(C)OC(NC1CN(CC1)C(=O)N1C=NC=C1)=O | C13H20N4O3
